US08664258B2
Step B: Preparation of 6-Chloro-2,3-dihydro-indole-1-carboxylic acid [4-(2-amino-ethoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-amide (Compound 180)
A mixture of tert-butyl 2-(4-amino-2-(4-bromo-1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate (30 mg, 54 μmol) and 6-chloroindoline (8.3 mg, 54 μmol) in 1 mL of DMF was stirred at room temperature overnight. Then to the mixture was added 1 mL of 2M HCl. The mixture was stirred at room temperature overnight. The mixture was concentrated and the crude product was subjected to purification on HPLC. The proper fractions were collected and lyophilized to afford yellow oil in 20.1% yield. LCMS m/z (%)=492 (M+H 35Cl 79Br, 100). 1H NMR (400 MHz, MeOD) δ ppm 3.1 (m, 4 H), 3.7 (s, 3 H), 4.1 (m, 3 H), 4.2 (m, 1 H), 6.8 (dd, J=7.6, 2.0 Hz, 1 H), 7.1 (d, J=7.6 Hz, 1 H), 7.1 (d, J=9.1 Hz, 1 H), 7.3 (d, J=3.0 Hz, 1 H), 7.5 (s, 1 H), 7.6 (dd, J=9.1, 2.5 Hz, 1 H), 7.8 (d, J=2.0 Hz, 1 H).

reactant | tert-butyl 2-(4-amino-2-(4-bromo-1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | 54 μmol, 30 mg | NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=C(C=NN1C)Br | C17H23BrN4O3
reactant | 6-chloroindoline | 54 μmol, 8.3 mg | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | HCl | 2M, 1 mL | Cl | ClH
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-2,3-dihydro-indole-1-carboxylic acid [4-(2-amino-ethoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-amide | 20.1% yield | NCCOC1=C(C=C(C=C1)NC(=O)N1CCC2=CC=C(C=C12)Cl)C=1N(N=CC1Br)C | C21H21BrClN5O2
